US07776857B2
A suspension of 5-((6-methoxypyridin-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (51.3 g, 0.185 mol) in diphenylether (1275 mL) was heated to 250° C. under nitrogen atmosphere for 20 min. The reaction mixture was cooled to RT and diluted with hexane. The gummy solid was then triturated with hexane to obtain 6-methoxy-1,5-naphthyridin-4(1H)-one as a pale brown color solid.

reactant | 5-((6-methoxypyridin-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 0.185 mol, 51.3 g | COC1=CC=C(C=N1)NC=C1C(OC(OC1=O)(C)C)=O | C13H14N2O5
solvent | diphenylether | 1275 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
product | 6-methoxy-1,5-naphthyridin-4(1H)-one | COC=1N=C2C(C=CNC2=CC1)=O | C9H8N2O2
